US07030141B2
Step 4: 2-(2′-Methanesulfonyl-3-trifluoromethyl-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
2-(2′-Methylsulfanyl-3-trifluoromethyl-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (1.8 g, 3.7 mmol) was dissolved in 20 mL acetonitrile, and added oxone (4.6 g, 6.8 mmol) in one portion and stirred at ambient temperature 4 days and then concentrated. Redissolved in 100 mL EtOAc and 100 mL sat. NaHCO3, separated layers, washed organics with brine, dried with MgSO4, filtered and concentrated. Purified on a silica gel column eluted with 20% EtOAc in hexanes. Combined and concentrated pure fractions to yield title compound. (1.05 g, 55%) APCI (AP−): 511.1 (M−H)−.

reactant | 2-(2′-Methylsulfanyl-3-trifluoromethyl-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 3.7 mmol, 1.8 g | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC1=C(C=C(C=C1)C1=C(C=CC=C1)SC)C(F)(F)F)=O | C24H27F3N2O3S
reactant | oxone | 6.8 mmol, 4.6 g | OOS(=O)[O-].[K+]
reactant | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 2-(2′-Methanesulfonyl-3-trifluoromethyl-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C)C(F)(F)F)=O | C24H27F3N2O5S
